US05264429
STEP B: Preparation of p-methoxybenzyl 7β-amino-3-azidomethyl-3-cephem-4-carboxylate-1,1-dioxide
p-Methoxybenzyl 7β-amino-3-azidomethyl-3-cephem-4-carboxylate (17.15 g, 0.046 mol) in ethyl acetate was cooled to 15° C., sodium tungstate dihydrate (1.52 g, 0.0046 mol) was added followed by hydrogen peroxide (30%, 20.73 ml) in one portion and the stirring was continued at room temperature. After two hours an additional portion of hydrogen peroxide (5.18 ml) was added and the reaction mixture was stirred at room temperature for a total period of 18 h; the mixture was cooled to 10° C. and a solution of sodium sulphite (10%, 600 ml) was added while stirring. Organic layer was separated out, washed with aq. sodium bicarbonate solution, brine and dried (Na2SO4). Evaporation of the solvent in vacuo gave a foam (12 g) which was purified over a silica column using hexane-ethyl acetate (1:3) as eluant to give the pure product as a white foam (6.8 g, 36.5%). IR (Nujol) ν max 2083 cm-1.

reactant | p-Methoxybenzyl 7β-amino-3-azidomethyl-3-cephem-4-carboxylate | 0.046 mol, 17.15 g | N[C@H]1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)OC)C1=O | C16H17N5O4S
reactant | hydrogen peroxide | 20.73 ml | OO | H2O2
reactant | hydrogen peroxide | 5.18 ml | OO | H2O2
reactant | sodium sulphite | 600 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sodium tungstate dihydrate | 0.0046 mol, 1.52 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | p-methoxybenzyl 7β-amino-3-azidomethyl-3-cephem-4-carboxylate-1,1-dioxide | 12 g | N[C@H]1[C@@H]2N(C(=C(CS2(=O)=O)CN=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)OC)C1=O | C16H17N5O6S
